US07842696B2
KMnO4 (1.2 g, 7.6 mmol) was added portionwise to a stirred solution of 3-Methyl-1-phenyl-1H-pyrazole (100 mg, 0.63 mmol) and NaOH (504 mg, 12.6 mmol) in H2O (4 mL). The resulting mixture was heated to 85° C. for 48 hrs. The reaction mixture was filtered, filtrate was acidified with 30% aqueous HCl solution, extracted the aqueous layer with EtOAc. The organic phase was dried over Na2SO4 and concentrated under reduced pressure to get the residue. The obtained residue was purified by washing with hexane to afford 53 mg (44.53% yield) of 1-phenyl-1H-pyrazole-3-carboxylic acid. 1H NMR (DMSO-d6): δ 8.6 (d, 1H), 7.9 (d, 2H), 7.6-7.5 (t, 2H), 7.4 (t, 1H), 6.96 (d, 1H).

reactant | KMnO4 | 7.6 mmol, 1.2 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | 3-Methyl-1-phenyl-1H-pyrazole | 0.63 mmol, 100 mg | CC1=NN(C=C1)C1=CC=CC=C1 | C10H10N2
reactant | NaOH | 12.6 mmol, 504 mg | [OH-].[Na+]
solvent | H2O | 4 mL | O | H2O
product | 1-phenyl-1H-pyrazole-3-carboxylic acid | 53 mg, 44.53% yield | C1(=CC=CC=C1)N1N=C(C=C1)C(=O)O | C10H8N2O2
